US08017607B2
Preparation of rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carboxylic acid (1-methyl-2-oxo-1,2-dihydro-pyridin-4-yl)-amide
A mixture of rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile (15.8 mg, 0.0373 mmol) and imidazole-1-carboxylic acid (1-methyl-2-oxo-1,2-dihydro-pyridin-4-yl)-amide (76.3 mg, 0.105 mmol) in CH2Cl2 (1.5 mL) was stirred at rt for 1 day. The reaction mixture was then purified by flash column to rac (2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carboxylic acid (1-methyl-2-oxo-1,2-dihydro-pyridin-4-yl)-amide (19.7 mg, 92.1%). HRMS (ES+) m/z Calcd for C29H28Cl2F2N4O2+H [(M+H)+]: 573.1630; Found: 573.1629.

reactant | rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile | 0.0373 mmol, 15.8 mg | ClC=1C(=C(C=CC1)C1NCC(C1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)F | C22H22Cl2F2N2
reactant | imidazole-1-carboxylic acid (1-methyl-2-oxo-1,2-dihydro-pyridin-4-yl)-amide | 0.105 mmol, 76.3 mg | CN1C(C=C(C=C1)NC(=O)N1C=NC=C1)=O | C10H10N4O2
solvent | CH2Cl2 | 1.5 mL | C(Cl)Cl | CH2Cl2
product | rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidine-1-carboxylic acid (1-methyl-2-oxo-1,2-dihydro-pyridin-4-yl)-amide | CN1C(C=C(C=C1)NC(=O)N1C(C(C(C1)CC(C)(C)C)(C#N)C1=C(C=C(C=C1)Cl)F)C1=C(C(=CC=C1)Cl)F)=O | C29H28Cl2F2N4O2
